US08648068B2
XVI.2 4-[4-Fluoro-2-(1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Methyl 4-(4-fluoro-2-hydroxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (described in V.1) (1.0 g), 1-(methylsulfonyl)pyrrolidin-3-yl methansulfonate and potassium carbonate (664.0 mg) were combined in DMF (15.0 ml) and heated at 60° C. overnight. The temperature was increased at 80° C. and heated for 6 h again. The reaction mixture was allowed to cool overnight. The mixture was portioned between EtOAc and water. The suspension was fitlered, solid washed with EtOAc and air-dried under vacuum.

reactant | Methyl 4-(4-fluoro-2-hydroxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 1.0 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)O | C15H12FN3O3S
reactant | 1-(methylsulfonyl)pyrrolidin-3-yl methansulfonate | CS(=O)(=O)OC1CN(CC1)S(=O)(=O)C | C6H13NO5S2
reactant | potassium carbonate | 664.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 15.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[4-Fluoro-2-(1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CN(CC2)S(=O)(=O)C)S1)C | C20H21FN4O5S2
